US08536338B2
Step 1: Preparation of 4-chloro-3-(2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)benzoic acid
Cesium carbonate (167 mg, 0.514 mmol) was added to Pd(Ph3P)4 (40 mg, 0.034 mmol), 5-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridine (100 mg, 0.342 mmol), 3-borono-4-chlorobenzoic acid (103 mg, 0.514 mmol) in DMF (3 mL) and Water (0.3 mL) at room temperature. The mixture was degassed 3× and the reaction was heated to 180° C. in the microwave for 10 min. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated. The crude product was triturated with MeOH to give the expected product 4-chloro-3-(2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)benzoic acid (59 mg, 0.160 mmol, 47% yield) consistent by LCMS and NMR. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.22 (1H, br. s.), 8.36 (1H, d, J=2.26 Hz), 8.25 (1H, d, J=2.26 Hz), 8.03-8.11 (2H, m), 7.97-8.02 (2H, m), 7.77 (1H, d, J=7.78 Hz), 7.55 (1H, s), 7.41 (2H, t, J=8.78 Hz). LC-MS retention time: 1.15 min; m/z (MH+): 368. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | Cesium carbonate | 0.514 mmol, 167 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridine | 0.342 mmol, 100 mg | BrC=1C=C2C(=NC1)OC(=C2)C2=CC=C(C=C2)F | C13H7BrFNO
reactant | 3-borono-4-chlorobenzoic acid | 0.514 mmol, 103 mg | B(O)(O)C=1C=C(C(=O)O)C=CC1Cl | C7H6BClO4
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Water | 0.3 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.034 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-3-(2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)benzoic acid | 0.160 mmol, 59 mg, 47% yield | ClC1=C(C=C(C(=O)O)C=C1)C=1C=C2C(=NC1)OC(=C2)C2=CC=C(C=C2)F | C20H11ClFNO3
